US06933311B2
4-(8-azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzonitrile
2-Chloro-4-fluorobenzonitrile (0.97 g, 6.2 mmol), 8-aza-bicyclo[3.2.1]octane hydrochloride (0.92 g, 6.2 mmol), and N,N-diisopropylethylamine (1.6 g, 12 mmol) were combined in DMSO (15 mL) and heated at 120° C. for 16 hours. The mixture was allowed to cool to ambient temperature and partitioned between diethyl ether and saturated NaHCO3 solution. The aqueous phase was separated and extracted with diethyl ether. The organic layers were combined, washed with water, brine, dried (Na2SO4), filtered, and the filtrate was concentrated under reduced pressure to provide the title compound which was used in the next step without further purification.

reactant | 2-Chloro-4-fluorobenzonitrile | 6.2 mmol, 0.97 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | 8-aza-bicyclo[3.2.1]octane hydrochloride | 6.2 mmol, 0.92 g | Cl.C12CCCC(CC1)N2
reactant | N,N-diisopropylethylamine | 12 mmol, 1.6 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 4-(8-azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzonitrile | C12CCCC(CC1)N2C2=CC(=C(C#N)C=C2)Cl | C14H15ClN2
